US05817654
3-Amino-4-oxo-2,3,4,5-tetrahydro-1H-naphtho [2,1-b]azepine.
A solution of 3-azido-4-oxo-2,3,4,5-tetrahydro-1H-naphtho[2, 1-b]azepine (1.0 g, 4.0 mmol) in dry THF (20 ml) was placed under an atmosphere of nitrogen and cooled by an ice-bath. A solution of sodium borohydride (0.17 g, 4.4 mmol) in ethanol (20 ml) was added dropwise during a period of 10 minutes and the reaction mixture was heated at reflux temperature for 20 h. The volatiles were evaporated in vacuo and the residue was purified by columm chromatography on silica gel (200 g) using dichloromethane and a mixture of ethanol and 25% NH3 (aq) (9:1) (gradient 0% to 10%) as eluent. This afforded 0.30 g of 3-amino-4-oxo-2,3,4,5-tetrahydro-1H-naphtho [2,1-b]azepine.

reactant | 3-azido-4-oxo-2,3,4,5-tetrahydro-1H-naphtho[2, 1-b]azepine | 4.0 mmol, 1.0 g | N(=[N+]=[N-])C1CCC2=C(NC1=O)C=CC1=CC=CC=C12 | C14H12N4O
reactant | sodium borohydride | 4.4 mmol, 0.17 g | [BH4-].[Na+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 3-Amino-4-oxo-2,3,4,5-tetrahydro-1H-naphtho [2,1-b]azepine | NC1CCC2=C(NC1=O)C=CC1=CC=CC=C12 | C14H14N2O
